US04845228
To 2.5 g of ethyl acetate was added 1.12 g of 60% sodium hydride and, a solution of 1.78 g of 4-methoxycyclohexanone in benzene was added to the mixture. After reacting at 40° C. for 3 hours, methanol was added to decompose an excess of sodium hydride, which was poured into water. The mixture was neutralized with hydrochloric acid ahd extracted with ether to give 1.02 g of 2-acetyl-4-methoxycyclohexanone.

reactant | ethyl acetate | 2.5 g | C(C)(=O)OCC | C4H8O2
reactant | sodium hydride | 1.12 g | [H-].[Na+]
reactant | 4-methoxycyclohexanone | 1.78 g | COC1CCC(CC1)=O | C7H12O2
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-acetyl-4-methoxycyclohexanone | 1.02 g | C(C)(=O)C1C(CCC(C1)OC)=O | C9H14O3
